US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.200 g, 0.56 mmol), 4-fluoro-benzylamine (0.7 mmol), and IC2CO3 (0.166 g, 1.2 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(4-fluoro-benzyl)-7-iodo-2,3-dihydro-isoindol-1-one (0.082 g, 40%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.16 (s, 2H), 4.75 (s, 2H), 7.01 (t, 2H), 7.28-7.40 (m, 4H), 7.89 (d, 1H). GC-MS: m/z 367 (M)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.56 mmol, 0.200 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 4-fluoro-benzylamine | 0.7 mmol | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-(4-fluoro-benzyl)-7-iodo-2,3-dihydro-isoindol-1-one | 0.082 g, 40% | FC1=CC=C(CN2C(C3=C(C=CC=C3C2)I)=O)C=C1 | C15H11FINO
